.subckt bgr vdd vbg gnd

*MOS subcircuit drain gate source bulk
xm1 net1 gnd vdd vdd sg13_lv_pmos w=1u l=5u ng=1 m=1
xm2 gnd net1 gnd gnd sg13_lv_nmos w=10u l=10u ng=1 m=1
xm3 net2 net1 vdd vdd sg13_lv_pmos w=4u l=1u ng=1 m=1
xm4 net2 net3 vdd vdd sg13_lv_pmos w=9.5u l=1.5u ng=1 m=1
xm5 net3 net3 vdd vdd sg13_lv_pmos w=9.5u l=1.5u ng=1 m=1

*NPN HBT subcircuit collector base emitter subc
xq1 net2 net2 net4 gnd npn13G2 Nx=1
xq2 net3 vbg net5 gnd npn13G2 Nx=1
xq3 net3 vbg net5 gnd npn13G2 Nx=1
xq4 net3 vbg net5 gnd npn13G2 Nx=1
xq5 net3 vbg net5 gnd npn13G2 Nx=1
xq6 net3 vbg net5 gnd npn13G2 Nx=1
xq7 net3 vbg net5 gnd npn13G2 Nx=1
xq8 net3 vbg net5 gnd npn13G2 Nx=1
xq9 net3 vbg net5 gnd npn13G2 Nx=1

*Resistor subcircuit P1 P2 bulk
xr1 net5 net4 gnd rhigh w=0.5u l=1.7u m=1
xr2 net4 gnd gnd rhigh w=0.5u l=5.1u m=1
xr3 net2 vbg gnd rhigh w=0.5u l={resL} m=1

.ends
